US07491710B2
A solution of 70 mg of 3-styryl-1H-indazol-5-ol, 300 mg of imidazole and of 273 μl of diphenylphosphinyl chloride in 15 ml of dichloromethane is stirred at ambient temperature. After stirring for approximately 90 minutes, the medium is treated with 30 ml of distilled water. The aqueous phase is extracted twice with 30 ml of dichloromethane and the organic phases are then dried over magnesium sulfate, filtered, and concentrated under reduced pressure on a rotary evaporator. The crude is taken up with ethyl acetate. The solid is filtered through sintered glass, and rinsed with ethyl ether. The filtrate is concentrated under reduced pressure in a rotary evaporator, and purified by flash chromatography on silica 35-70 μm. Eluent: cyclohexane/ethyl acetate gradient of 80:20 to 70:30. 143 mg of a yellow solid are collected. This compound is purified by preparative LC/MS to obtain 47.3 mg of diphenylphosphinic acid 3-((E)-styryl)-1H-indazol-5-yl ester.

reactant | 3-styryl-1H-indazol-5-ol | 70 mg | C(=CC1=CC=CC=C1)C1=NNC2=CC=C(C=C12)O | C15H12N2O
reactant | imidazole | 300 mg | N1C=NC=C1 | C3H4N2
reactant | diphenylphosphinyl chloride | 273 μl | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | water | 30 ml | O | H2O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | diphenylphosphinic acid 3-((E)-styryl)-1H-indazol-5-yl ester | 47.3 mg | C(=C\C1=CC=CC=C1)/C1=NNC2=CC=C(C=C12)OP(=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H21N2O2P
